US08207205B2
Step 2: Ethyl 3-(3,5-dibromo-4-hydroxyphenyl)-1,2,4-oxadiazole-5-carboxylate (Compound B)
Ethyl 2-chloro-2-oxoacetate (12.3 g, 82 mmol) was added dropwise to a stirred solution of 3,5-dibromo-N′,4-dihydroxybenzimidamide (25.5 g, 82 mmol) in pyridine (120 mL) and the mixture was stirred at room temperature for 1 hour and then at 60° C. for 2 hours. The resulting suspension was poured onto water (1.5 L) and extracted with ethyl acetate (2×400 mL). The combined extracts were washed with saturated sodium chloride, dried (MgSO4) and evaporated in vacuo to give an oily solid that was purified by flash chromatography to give a colourless powder. Crystallisation from toluene (400 mL) gave the title compound (I 4.7 g, 46%) as colourless crystals. 1H NMR δ (ppm) (DMSO-d6): 1.14 (3H, t), 4.49 (2H, q), 8.14 (2H, s), 10.93 (1H, br s).

reactant | Ethyl 2-chloro-2-oxoacetate | 82 mmol, 12.3 g | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | 3,5-dibromo-N′,4-dihydroxybenzimidamide | 82 mmol, 25.5 g | BrC=1C=C(C(N)=NO)C=C(C1O)Br | C7H6Br2N2O2
solvent | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 3-(3,5-dibromo-4-hydroxyphenyl)-1,2,4-oxadiazole-5-carboxylate | 4.7 g, 46% | BrC=1C=C(C=C(C1O)Br)C1=NOC(=N1)C(=O)OCC | C11H8Br2N2O4
